US04814265
(c) Synthesis of 6-methyl-2-methylthiocycloheptimidazole
First, 38 g of potassium hydroxide was dissolved in 800 ml of methanol, 108.5 g of 2-mercapto-6-methycycloheptimidazole was added, and the mixture was stirred with heating to the inner temperature of about 45° C. Then, 131.2 g of dimethyl sulfate was added dropwise thereto and stirred with heating to the inner temperature of about 45° C. for one hour. After the solvent was distilled away in some extent under reduced pressure, 1 l of water was added and extracted with chloroform (0.5 l×2). The chloroform layer was dried over anhydrous sodium sulfate and evaporated to 200 ml under reduced pressure to distil away the solvent. With the addition of 1 l of hexane, crystals were deposited, and they were collected by filtration and dried.

reactant | potassium hydroxide | 38 g | [OH-].[K+]
reactant | 2-mercapto-6-methycycloheptimidazole | 108.5 g | SC=1N=C2C(N1)=CC=C(C=C2)C | C9H8N2S
reactant | dimethyl sulfate | 131.2 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | methanol | 800 ml | CO | CH4O
product | 6-methyl-2-methylthiocycloheptimidazole | CC=1C=CC=2C(N=C(N2)SC)=CC1 | C10H10N2S
